US05093364
A solution of phenyl isocyanate (2.98 g) in toluene (30 ml) was added dropwise to a stirred suspension of 4-fluoroanthranilic acid (3.88 g) in toluene (80 ml) at 50°. The mixture was stirred at 90° for 2 hours and the toluene evaporated under reduced pressure (30 ml). The residue was recrystallised from hexane/ethyl acetate to give 4-fluoro-N-phenylcarbamoylanthranilic acid, m.p. 163°-166°. (Compound 5).

reactant | phenyl isocyanate | 2.98 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 4-fluoroanthranilic acid | 3.88 g | FC=1C=C(C(C(=O)O)=CC1)N | C7H6FNO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 4-fluoro-N-phenylcarbamoylanthranilic acid | FC=1C=C(C(C(=O)O)=CC1)NC(NC1=CC=CC=C1)=O | C14H11FN2O3
